US09029408B2
Synthesis of (5-(4-(3,4,5-Trimethoxybenzoyl)-1H-imidazol-2-yl)-1H-indol-2-yl)(3,4,5-trimethoxyphenyl)methanone (15xaa)
To a solution of (1-(phenylsulfonyl)-2-(1-(phenylsulfonyl)-2-(3,4,5-trimethoxybenzoyl)-1H-indol-5-yl)-1H-imidazol-4-yl)(3,4,5-trimethoxyphenyl)methanone (16xaa) (1 mmol) in ethanol (20 mL) was added sodium hydroxide (10 equiv) and stirred overnight in darkness. The reaction mixture was diluted by 50 mL of water and extracted by ethyl acetate (250 mL). The organic layer was dried over magnesium sulfate and concentrated. The residue was purified by flash column chromatography (hexane:ethyl acetate 3:1) or recrystallized from water and methanol to give a white solid. Yield: 30-95%.

reactant | (1-(phenylsulfonyl)-2-(1-(phenylsulfonyl)-2-(3,4,5-trimethoxybenzoyl)-1H-indol-5-yl)-1H-imidazol-4-yl)(3,4,5-trimethoxyphenyl)methanone | 1 mmol | C1(=CC=CC=C1)S(=O)(=O)N1C(=NC(=C1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | C43H37N3O12S2
reactant | sodium hydroxide | 10 equiv | [OH-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (5-(4-(3,4,5-Trimethoxybenzoyl)-1H-imidazol-2-yl)-1H-indol-2-yl)(3,4,5-trimethoxyphenyl)methanone | Yield: 30-95% | COC=1C=C(C(=O)C=2N=C(NC2)C=2C=C3C=C(NC3=CC2)C(=O)C2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)OC | C31H29N3O8
